US07175670B2
A) Synthesis of 2-(3,5-dimethylpiperid-1-yl)-3,5-dinitropyridine
2 g (9.82 mmol) of 2-chloro-3,5-dinitropyridine, 10 ml of THF and 20 mmol of 3,5-dimethylpiperidine were placed in a round-bottomed flask. he mixture was maintained at 60° C. for 15 hours with stirring and was then poured into a mixture of ice-water with stirring. The precipitate formed was filtered off by suction and dried under vacuum to constant weight. 2.55 g of yellow powder were obtained.

reactant | 2-chloro-3,5-dinitropyridine | 9.82 mmol, 2 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | 3,5-dimethylpiperidine | 20 mmol | CC1CNCC(C1)C | C7H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(3,5-dimethylpiperid-1-yl)-3,5-dinitropyridine | 2.55 g | CC1CN(CC(C1)C)C1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C12H16N4O4
